US05869519
(1-Methylindole-2-Carbonyl)Glycine, Methyl Ester
DMAP (1.222 g, 0.01 mol) and EDAC (2.680 g, 0.014 mol) were added as solids to a solution of 1-methylindole-2-carboxylic acid (1.752 g, 0.01 mol) and glycine methyl ester hydrochloride (1.256 g, 0.01 mol) in methylene chloride (30 mL) and DMF (5 mL) under a nitrogen atmosphere at 0° C. Stirring was continued for 1 hour at 0° C. and then for 3 hours at room temperature. The reaction mixture was partitioned with ethyl acetate and 5% KHSO4 solution and the aqueous layer was extracted with ethyl acetate. The combined ethyl acetate solution was washed with 5% KHSO4 solution, saturated sodium bicarbonate solution (2×) solution and brine, dried over sodium sulfate, and concentrated to give a purple powder as crude product. Trituration of the powder with ether afforded the title product (1.734 mg, 70%). TLC: (methanol/methylene chloride 1:9): Rf =0.61; 1H NMR (CDCl3): δ 7.65 (dt, J=8.0, 1.1, 1H), 7.41-7.31 (m, 2H), 7.16 (dd, J=6.6, 1.4, 1H) 6.96 (d, J=0.5, 1H), 6.67 (bs, 1H), 4.25 (d, J=5.2, 2H), 4.05 (s, 3H), 3.82 (s, 3H).

reactant | EDAC | 0.014 mol, 2.680 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-methylindole-2-carboxylic acid | 0.01 mol, 1.752 g | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | glycine methyl ester hydrochloride | 0.01 mol, 1.256 g | Cl.COC(CN)=O
reactant | ether | CCOCC | C4H10O
catalyst | DMAP | 0.01 mol, 1.222 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (1-Methylindole-2-Carbonyl)Glycine, Methyl Ester | 1.734 mg, 70% | CN1C(=CC2=CC=CC=C12)C(=O)NCC(=O)OC | C13H14N2O3
